US07138414B2
d) 2-[3-(4-aminophenyl)-5-methyl-[1,2,4]triazol-4-yl]benzoic acid
was prepared by hydrogenating 270 mg of 2-[3-methyl-5-(4-nitrophenyl)-[1,2,4]triazol-4-yl]benzoic acid in the presence of Pd/C in tetrahydrofuran and purified by column chromatography (silica gel, solvent: 95:5 dichloromethane:methanol).

reactant | 2-[3-methyl-5-(4-nitrophenyl)-[1,2,4]triazol-4-yl]benzoic acid | 270 mg | CC1=NN=C(N1C1=C(C(=O)O)C=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H12N4O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 2-[3-(4-aminophenyl)-5-methyl-[1,2,4]triazol-4-yl]benzoic acid | NC1=CC=C(C=C1)C1=NN=C(N1C1=C(C(=O)O)C=CC=C1)C | C16H14N4O2
